US06921763B2
6 N Hydrochloric acid (10 mL) was added to a solution of rac-tert-butyl 3-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-pyrrolidinecarboxylate (1.029 g) in acetone (10 mL) and the reaction mixture was stirred at 45° C. for 5 h. The reaction mixture was filtered, and the resulting opaque filtrate was concentrated to afford an orange solid. Purification by preparative RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 20 min at 21 mL/min using a 8 μm Hypersil HS C18, 250×21 mm column, tr=6.2-7.5 min) afforded rac-N2-[4-(4-amino-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl]-5,7-dimethyl-1,3-benzoxazol-2-amine as an off-white solid (0.148 g, 35%). 1H NMR (DMSO-d6, 400 MHz) 2.15-2.22 (m, 2H), 2.40 (s, 3H), 2.50 (s, 3H), 2.93-4.04 (m, 5H), 5.31 (m, 1H), 6.79 (s, 1H), 7.11 (s, 1H), 7.66 (d, 2H), 7.93 (d, 2H), 8.24 (s, 1H), 10.85 (s, 1H); RP-HPLC Rt 10.603 min, 99% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 441 (MH+).

reactant | Hydrochloric acid | 6 N, 10 mL | Cl | ClH
reactant | rac-tert-butyl 3-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-pyrrolidinecarboxylate | 1.029 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CN(CC1)C(=O)OC(C)(C)C | C29H32N8O3
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | rac-N2-[4-(4-amino-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl]-5,7-dimethyl-1,3-benzoxazol-2-amine | 0.148 g, 35% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CNCC1 | C24H24N8O
